US08168659B2
(3R,5R)-3-[1′-Methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-5-(3-trifluoromethoxy-phenyl)-1-(4-cyclopropyl-phenyl)-pyrrolidin-2-one
Dissolve (3R,5R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-1-(4-bromo-phenyl)-5-(3-trifluoromethoxy-phenyl)-pyrrolidin-2-one (1.25 mmoles; 750 mg), cyclopropylboronic acid (1.62 mmoles; 139 mg), tribasic potassium phosphate N-hydrate (4.36 mmoles; 925 mg), and tricyclohexylphosphine (124.51 μmoles; 34 mg) in toluene (5 mL) and water (275 μL) and degas the solution for 5 minutes then place under a nitrogen atmosphere. Add Pd(OAc)2 (62 μmoles; 14 mg) and heat the mixture at 90° C. overnight. Dilute with ethyl acetate (50 mL) and filter through celite. Wash the filtrate with water, 1N HCl, saturated aqueous sodium bicarbonate, brine, dry over anhydrous sodium sulfate, filter, and concentrate in vacuo to a brown residue. Purify the residue by flash chromatography on silica with gradient 0->50% ethyl acetate in hexane to afford the title compound (3R,5R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-5-(3-trifluoromethoxy-phenyl)-1-(4-cyclopropyl-phenyl)-pyrrolidin-2-one (1.13 mmoles; 639.00 mg; 91.07% yield). LC/MS m/z 564.2 (M+1), Tr=4.87 min (Method 3).

reactant | (3R,5R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-1-(4-bromo-phenyl)-5-(3-trifluoromethoxy-phenyl)-pyrrolidin-2-one | 1.25 mmoles, 750 mg | CC(C)(C=1C=NC(=CC1)C(F)(F)F)N[C@H]1C(N([C@H](C1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=C(C=C1)Br)=O | C26H22BrF6N3O2
reactant | cyclopropylboronic acid | 1.62 mmoles, 139 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 124.51 μmoles, 34 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 275 μL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OAc)2 | 62 μmoles, 14 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (3R,5R)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-3-yl)-ethylamino]-5-(3-trifluoromethoxy-phenyl)-1-(4-cyclopropyl-phenyl)-pyrrolidin-2-one | 1.13 mmoles, 639.00 mg, 91.07% yield | CC(C)(C=1C=NC(=CC1)C(F)(F)F)N[C@H]1C(N([C@H](C1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=C(C=C1)C1CC1)=O | C29H27F6N3O2
